US04035348
Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-D-alanine methyl ester
Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-D-alanine resin, 7.1 g., prepared in Example 1 is mixed with methanol, 600 ml., and triethylamine, 60 ml., at room temperature for 2 days. After filtration and evaporation, the crude product, 2.7 g., is chromatographed on silica gel with chloroform-methanol-water (60:30:5) to yield 1.9 g., m.p. 178°-182° C.

reactant | Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-D-alanine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@H](C)C(=O)O | C45H51N5O9
reactant | methanol | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-tyrosyl-O-benzyl-L-seryl-D-alanine methyl ester | COC([C@H](NC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)COCC1=CC=CC=C1)=O)C)=O | C46H53N5O9
